US04748163
Methyl 2-amino-6-methylbenzothiazole-4-carboxylate (5a)
50 g (0.303 mol) of methyl 2-amino-5-methylbenzoate are dissolved in 300 ml of glacial acetic acid, and 120.6 g (1.24 mol) of potassium thiocyanate--dissolved in 200 ml of glacial acetic acid--are added. At 10° C., 17.42 ml (0.335 mol) of bromine are added dropwise, and the mixture is then stirred without cooling for 2 hours. The suspension is tipped into 3 l of ice-water, while stirring, and the precipitated product is filtered off with suction and washed with dilute sodium carbonate solution and water. The filter cake is suspended in H2O and the suspension is stirred at 100° C. overnight. After cooling, the product is filtered off with suction, washed with H2O and dried at 40° C. in vacuo.

reactant | methyl 2-amino-5-methylbenzoate | 0.303 mol, 50 g | NC1=C(C(=O)OC)C=C(C=C1)C | C9H11NO2
reactant | potassium thiocyanate | 1.24 mol, 120.6 g | [S-]C#N.[K+]
reactant | bromine | 0.335 mol, 17.42 ml | BrBr | Br2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | Methyl 2-amino-6-methylbenzothiazole-4-carboxylate | NC=1SC=2C(N1)=C(C=C(C2)C)C(=O)OC | C10H10N2O2S
